US07214690B2
A mixture of 118 g (0.74 mole) of 3,4-difluoronitrobenzene and 85 g (0.95 mole) of R-(+)-2-amino-1-butanol was dissolved in 400 mL of absolute ethanol. To this solution was then added 62.2 g (0.74 mole) of sodium bicarbonate. The suspension was stirred and heated at reflux temperature for 12 h when TLC indicated complete conversion of the 3,4-difluoronitrobenzene. After cooling to room temperature, the reaction mixture was filtered with the aid of additional ethanol and the ethanol was then evaporated. The crude product thus obtained was distilled under reduced pressure (10–112° C., 2 mm Hg) to afford (2R)-(+)-2-(2-fluoro-4-nitrophenyl)amino-1-butanol as a red solid. Yield, 162 g (96%). [α]D=+95.4 (CHCl3, c 22.7); 1H NMR (CDCl3) δ7.88 (1H, dd, J=2.4, 8.9), 7.76 (1H dd J=2.4, 11.7), 6.66 (1H, dd, J=8.7), 4.88 (1H, m), 3.76 (1H dd, J=4.2, 11.2), 3.68 (1H, dd J=4.2, 11.2), 3.52 (1H, m), 2.63 (1H, bs), 1.70 (1H, m), 1.59 (1H, m), 0.97 (3H, t, J=7.5). 13C NMR: ppm 150.1, 147.7, 142.8, 142.7, 136.1, 122.3, 110.9, 110.7, 109.5, 63.6, 55.8, 24.4, 10.4.

reactant | 3,4-difluoronitrobenzene | 0.74 mole, 118 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | sodium bicarbonate | 0.74 mole, 62.2 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | (2R)-(+)-2-(2-fluoro-4-nitrophenyl)amino-1-butanol | FC1=C(C=CC(=C1)[N+](=O)[O-])N[C@@H](CO)CC | C10H13FN2O3
